US08357694B2
(S)-6-(4-chlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride
This was synthesized by using (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate, piperidine and triethylamine as described in general procedure 2 to give a yellow solid. M.p.=261-263° C. 1H NMR 400 MHz (DMSO-d6) δ 9.72 (s, br, 1H), 9.59 (s, 1H), 8.32-8.28 (m, 2H), 7.79 (d, J=8.4 Hz, 2H), 7.50-7.44 (m, 2H), 7.31 (dd, J=1.8, 4.8 Hz, 2H), 7.21 (d, J=8.4 Hz, 2H), 7.11-7.08 (m, 3H), 4.42 (t, J=6.2 Hz, 1H), 3.49 (d, J=11.2 Hz, 2H), 3.32-2.84 (m, 8H), 1.79-1.68 (m, 5H), 1.38 (m, 1H). LCMS m/e 495 (M+H).

reactant | (S)-4-(6-(4-chlorophenyl)-5,6-dihydrobenzo[h]quinazolin-2-ylamino)phenethyl methanesulfonate | CS(=O)(=O)OCCC1=CC=C(C=C1)NC1=NC=2C3=C([C@@H](CC2C=N1)C1=CC=C(C=C1)Cl)C=CC=C3 | C27H24ClN3O3S
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | (S)-6-(4-chlorophenyl)-N-(4-(2-(piperidin-1-yl)ethyl)phenyl)-5,6-dihydrobenzo[h]quinazolin-2-amine hydrochloride | Cl.ClC1=CC=C(C=C1)[C@@H]1CC=2C=NC(=NC2C2=C1C=CC=C2)NC2=CC=C(C=C2)CCN2CCCCC2 | InChI=1S/C31H31ClN4.ClH/c32-25-12-10-23(11-13-25)29-20-24-21-33-31(35-30(24)28-7-3-2-6-27(28)29)34-26-14-8-22(9-15-26)16-19-36-17-4-1-5-18-36;/h2-3,6-15,21,29H,1,4-5,16-20H2,(H,33,34,35);1H/t29-;/m0./s1
